US08895571B2
4-Chloro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
A solution of 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.00 g, 4.81 mmol) and N-chlorosuccinimide (0.671 g, 5.05 mmol) in tetrahydrofuran (10 mL, 100 mmol) was stirred at 70° C. for 2 hrs. The reaction mixture was concentrated under reduced pressure and the residue was purified by combi-flash chromatography and eluted with EtOAc/hexane (10-80%). The purification afforded 1.08 g (78% yield) of the desired product as white solid.

reactant | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 4.81 mmol, 1.00 g | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | N-chlorosuccinimide | 5.05 mmol, 0.671 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tetrahydrofuran | 100 mmol, 10 mL | O1CCCC1 | C4H8O
product | 4-Chloro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.08 g, 78% yield | ClC=1C=NN(C1B1OC(C(O1)(C)C)(C)C)C | C10H16BClN2O2
